US05658858
Potassium carbonate (12.5 g) was added to a stirred solution of methyl 4-chloro-2-(N-methylsulphonylamino)benzoate (7.5 g) in acetone. The mixture was stirred for 15 minutes and methyl iodide (8.0 g) was added. The resultant mixture was stirred at room temperature for 1 hour and left to stand overnight. The mixture was evaporated to dryness and the residue was dissolved in ethyl acetate and washed with sodium hydroxide solution (2M) and water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give methyl 4-chloro-2-(N-methyl-N-methylsulphonylamino)benzoate (4.9g) as a white solid, m.p. 73°-75° C.

reactant | Potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-chloro-2-(N-methylsulphonylamino)benzoate | 7.5 g | ClC1=CC(=C(C(=O)OC)C=C1)NS(=O)(=O)C | C9H10ClNO4S
reactant | methyl iodide | 8.0 g | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-chloro-2-(N-methyl-N-methylsulphonylamino)benzoate | 4.9g | ClC1=CC(=C(C(=O)OC)C=C1)N(S(=O)(=O)C)C | C10H12ClNO4S
